### PR TITLE
fixes #597 (infty -> y)

### LINKED ISSUE #597: naming in ereal.v
https://github.com/math-comp/analysis/blob/8b15a9548996bffc32d5bb96a1b6fd91cbbc5f66/theories/ereal.v#L769-L772

wouldn't `addpinftye` and `addepinfty` bet better names?

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

fixes #597 

implements this renaming:
`addeoo` -> `addepinfty`
`addooe` -> `addpinftye`

other proposal: 
add_pinfty_e
adde_pinfty

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
- [x] added corresponding documentation in the headers

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and put a milestone if possible.

### CODE REVIEW

**Comment by CohenCyril** [comment]
> ##### Motivation for this change
> fixes #597
> 
> implements this renaming: `addeoo` -> `addepinfty` `addooe` -> `addpinftye`

I agree they should be changed. But the conventions of mathcomp is that shortsuffixes (one-letter) are to be glued without `_` while long one have to be separted (either by `_` or by `N`, `E` or `P` (capital letters)).
 
> other proposal: add_pinfty_e adde_pinfty

Usually long suffixes are not alternated with the a short suffix to reflect the order, we use `l` and `r` instead.

Hence... I suggest we make up a new 1-letter suffix for infinity, looking at the letters, I guess only the `y` is unattributed and unambiguous so what about `y` for `infty` and `Ny` for negative infty (either as `-oo` or as `- +oo`, they are convertible anyway).

@affeldt-aist WDYT?

**Comment by affeldt-aist** [comment]
I tried the one-letter convention in this commit https://github.com/math-comp/analysis/pull/615/commits/9ee776e55581e9f4e744cd322fdea49a2a50056e.

That looks fine to me.

File: CHANGELOG_UNRELEASED.md [hunk 1]
```diff
@@ -21,6 +21,40 @@
...
+  + `gt0_mulninfty` -> `gt0_mulNye`
+  + `lt0_mulninfty` -> `lt0_mulNye`
+  + `maxe_pinftyl` -> `maxye`
+  + `maxe_pinftyr` -> `maxey`
+  + `maxe_ninftyl` -> `maxNye`
+  + `maxe_ninftyr` -> `maxeNy`
+  + `mine_ninftyl` -> `minNye`
+  + `mine_ninftyr` -> `mineNy`
+  + `mine_pinftyl` -> `minye`
+  + `mine_pinftyr` -> `miney`
```
Comment (proux01) [inline CHANGELOG_UNRELEASED.md:57]: Should we retain the left and right suffix here? (although `r` for right somewhat clashes with `r` for real)
```suggestion
  + `gt0_mulpinfty` -> `gt0_mulyl`
  + `lt0_mulpinfty` -> `lt0_mulyl`
  + `gt0_mulninfty` -> `gt0_mulNyl`
  + `lt0_mulninfty` -> `lt0_mulNyl`
  + `maxe_pinftyl` -> `maxyl`
  + `maxe_pinftyr` -> `maxyr`
  + `maxe_ninftyl` -> `maxNyl`
  + `maxe_ninftyr` -> `maxNyr`
  + `mine_ninftyl` -> `minNyl`
  + `mine_ninftyr` -> `minNyr`
  + `mine_pinftyl` -> `minyl`
  + `mine_pinftyr` -> `minyr`
```

File: theories/ereal.v [hunk 2]
```diff
@@ -1379,34 +1370,34 @@ Proof.
...
 - move=> _; rewrite le_eqVlt => /predU1P[<-|x0].
     by rewrite mule0 ltxx andbC.
-  by rewrite lte_pinfty/= mulpinftyr gtr0_sg// mul1e lte_fin x0 lte_pinfty.
-- by move=> _ _; rewrite mule_pinfty_pinfty lte_pinfty.
+  by rewrite ltey/= mulrinfty gtr0_sg// mul1e lte_fin x0 ltey.
+- by move=> _ _; rewrite mulyy ltey.
 Qed.
 
-Lemma gt0_mulpinfty x : (0 < x -> +oo * x = +oo)%E.
+Lemma gt0_mulye x : (0 < x -> +oo * x = +oo)%E.
```
Comment (proux01) [inline theories/ereal.v:1380]: Shouldn't the `gt0` be a suffix here? (and same for the three following lemmas)
```suggestion
Lemma mulye_gt0 x : (0 < x -> +oo * x = +oo)%E.
```

File: CHANGELOG_UNRELEASED.md (hunk 1 above)
Comment (CohenCyril) [reply CHANGELOG_UNRELEASED.md:57]: I'd say no, either suffixes are short and positional, or long and with `l` and `r`.

File: theories/ereal.v [hunk 3]
```diff
@@ -912,11 +911,10 @@ move: rreal => /orP[|]; rewrite le_eqVlt !lte_fin /Num.sg.
 by rewrite (negbTE rn0)/= => rlt0; rewrite lt_def lt_geF// andbF rlt0 ltr0N1.
 Qed.
 
-Lemma mulninftyr_real r : r \is Num.real -> -oo * r%:E = (Num.sg r)%:E * -oo.
-Proof. by move=> rreal; rewrite muleC mulrninfty_real. Qed.
+Lemma mulNyr_real r : r \is Num.real -> -oo * r%:E = (Num.sg r)%:E * -oo.
```
[the remark this answers is not in the document]
Comment (affeldt-aist) [reply theories/ereal.v:914]: Yet, `mulNyr` already exists:
https://github.com/math-comp/analysis/blob/fixes_597/theories/ereal.v#L1352
Maybe this lemma should be `real_mulNyr` instead of `mulNyr_real`?

[the remark this answers is not in the document]
Comment (CohenCyril) [reply theories/ereal.v:914]: > Maybe this lemma should be `real_mulNyr` instead of `mulNyr_real`?

indeed

File: CHANGELOG_UNRELEASED.md [hunk 4]
```diff
@@ -21,6 +21,41 @@
...
+  + `mulrinfty_real` -> `real_mulrinfty`
```
Comment (CohenCyril) [inline CHANGELOG_UNRELEASED.md:58]:
```suggestion
  + `mulrinfty_real` -> `real_mulr_infty`
```
Since its a long suffix, we should add an underscore. Same goes for `mulrinfty`

**Comment by CohenCyril** [comment]
I am afraid this PR has to be rebased in a non trivial to take into account new lemmas added by #609

**Comment by affeldt-aist** [comment]
> I am afraid this PR has to be rebased in a non trivial way to take into account new lemmas added by #609

Let me check.
